US08030311B2
Step 45.2: 5-[4-(5-Amino-3-tert-butyl-pyrazol-1-yl)-phenyl]-morpholin-4-yl-methanone
To a solution of 515 mg (1.98 mmol) 4-(5-amino-3-tert-butyl-pyrazol-1-yl)-benzoic acid and 259 μL (2.98 mMol) morpholine in 8 mL THF, 495 mg (2.58 mmol) of EDC are added at rt. The reaction is stirred at rt for 2 h. After completion, the resulting reaction mixture is concentrated and the residue is taken up in CH2Cl2, washed with brine (2×), dried and concentrated. The residual crude product is purified by flash chromatography (SiO2, CH2Cl2/MeOH; gradient 0-5% MeOH) to give the title compound as an off white powder. MS: [M+1]+=329.

reactant | 4-(5-amino-3-tert-butyl-pyrazol-1-yl)-benzoic acid | 1.98 mmol, 515 mg | NC1=CC(=NN1C1=CC=C(C(=O)O)C=C1)C(C)(C)C | C14H17N3O2
reactant | morpholine | 2.98 mMol, 259 μL | N1CCOCC1 | C4H9NO
reactant | EDC | 2.58 mmol, 495 mg
reactant | THF | 8 mL | C1CCOC1 | C4H8O
product | 5-[4-(5-Amino-3-tert-butyl-pyrazol-1-yl)-phenyl]-morpholin-4-yl-methanone | NC1=CC(=NN1C1=CC=C(C=C1)C1COCCN1C=O)C(C)(C)C | C18H24N4O2
